US07192982B2
(2S)-3-{4-[3-(4-Butyl-phenoxy)-propoxy]-phenyl}-2-methoxy-propionic acid
The title compound was prepared from (2S)-3-[4-(3-hydroxy-propoxy)-phenyl]-2-methoxy-propionic acid linked to Wang's Resin (Example 94, Step D) via Mitsunobu coupling with 4-n-butylphenol and cleavage from the resin (Standard Procedure G) gave an oily solid (7%). 1H-NMR (200.15 MHz, CDCl3): δ 7.11 (dd, 4H, J=12.7, 8.6), 6.82 (dd, 4H, J=8.6, 3.2), 4.12 (t, 4H, J=6.2), 3.97 (dd, 1H, J=7.7, 4.4), 3.38 (s, 3H), 3.30 (dd, 1H, J=14.5, 4.4), 2.94 (dd, 1H, J=14.5, 7.7), 2.54 (t, 2H, J=7.7), 2.23 (qn, 2H, J=6.2), 1.63–1.48 (m, 2H), 1.42–1.24 (m, 2H), 0.91 (t, 3H, J=7.2).

reactant | (2S)-3-[4-(3-hydroxy-propoxy)-phenyl]-2-methoxy-propionic acid | OCCCOC1=CC=C(C=C1)C[C@@H](C(=O)O)OC | C13H18O5
reactant | 4-n-butylphenol | CCCCC=1C=CC(=CC1)O | C10H14O
product | (2S)-3-{4-[3-(4-Butyl-phenoxy)-propoxy]-phenyl}-2-methoxy-propionic acid | C(CCC)C1=CC=C(OCCCOC2=CC=C(C=C2)C[C@@H](C(=O)O)OC)C=C1 | C23H30O5
